US07244729B2
Step 133.2: (2-Methoxy-pyridin-4-yl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
At 0° C., a suspension of 1.23 g (3.5 mMol) of {4-[4-(2-methoxy-pyridin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol in 18 ml of acetonitrile, 18 ml of dioxane and 1.5 ml of SOCl2 is prepared at 0° C. and then stirred for 4.5 h at RT. The mixture is diluted with 0.2 I of EtOAc and 0.1 I of saturated NaHCO3-solution, stirred and the title compound filtered off; MS-ES+: (M+H)+=366. More product can be obtained by extraction of the filtrate.

reactant | {4-[4-(2-methoxy-pyridin-4-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-phenyl}-methanol | 3.5 mMol, 1.23 g | COC1=NC=CC(=C1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CO | C19H17N5O2
reactant | SOCl2 | 1.5 ml | O=S(Cl)Cl | Cl2OS
solvent | acetonitrile | 18 ml | C(C)#N | C2H3N
solvent | dioxane | 18 ml | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (2-Methoxy-pyridin-4-yl)-[6-(4-chloromethyl-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | COC1=NC=CC(=C1)NC=1C2=C(N=CN1)NC(=C2)C2=CC=C(C=C2)CCl | C19H16ClN5O
